US06132462
Synthesis of 1-acryloyl-2-pyrrolidone (NAPy)
2-pyrrolidone and acryloyl chloride were used to synthesize the title compound with the similar synthesis method to described in Example 1.

reactant | 2-pyrrolidone | N1C(CCC1)=O | C4H7NO
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 1-acryloyl-2-pyrrolidone | C(C=C)(=O)N1C(CCC1)=O | C7H9NO2
